US07064124B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzoic acid
An aqueous solution (5 ml) of sodium dihydrogenphosphate (1.06 g, 8.86 mmol), an aqueous solution (7 ml) of sodium chlorite (0.460 g, 5.11 mmol) and aqueous hydrogen peroxide (0.502 ml, 30%) were added to an acetonitrile solution (10 ml) of 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-methoxybenzaldehyde (0.409 g, 1.14 mmol) and the resulting solution was stirred at room temperature for 5 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium hydrosulfite (Na2S2O4) solution and saturated brine, then dried and concentrated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain the titled compound (0.260 g, 0.691 mmol, 61%).

reactant | sodium dihydrogenphosphate | 8.86 mmol, 5 ml, 1.06 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 5.11 mmol, 7 ml, 0.460 g | Cl(=O)[O-].[Na+]
reactant | hydrogen peroxide | 0.502 ml | OO | H2O2
reactant | 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-methoxybenzaldehyde | 1.14 mmol, 0.409 g | COC=1C(=C(CC=2C=CC(=C(C=O)C2)OC)C(=C(C1OC)OC)OC)C | C20H24O6
solvent | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzoic acid | 0.691 mmol, 0.260 g, 61% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC)C(=C(C1OC)OC)OC)C | C20H24O7
